US07268231B2
To a mixture of 2-(2-chloro-benzylamino)-4-methylene-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester (62.0 mg, 0.17 mmol), 1,5-naphthyridine-6-carboxaldehyde (31.6 mg, 0.2 mmol) and iPrOH (5.0 mL) in a 25-mL round bottom flask was added piperidine (0.05 mL) and the suspension was then heated under refluxing for 3.5 hrs to give a suspension. The reaction mixture was concentrated to give a brown solid which was washed with MeOH and ether. The solid was collected by filtration to give 2-(2-chloro-benzylamino)-5-[1,5]-naphthyridin-2-ylmethylene-1,5-dihydro-imidazol-4-one as a brown solid, (10.1 mg, 16.3%). HR-ES (+) m/e calcd. for C19H14ClN5OS: (M+H)+ 364.0960. Found: 364.0959.

reactant | 2-(2-chloro-benzylamino)-4-methylene-4,5-dihydro-imidazole-1-carboxylic acid benzyl ester | 0.17 mmol, 62.0 mg | C(C1=CC=CC=C1)OC(=O)N1C(=NC(C1)=C)NCC1=C(C=CC=C1)Cl | C19H18ClN3O2
reactant | 1,5-naphthyridine-6-carboxaldehyde | 0.2 mmol, 31.6 mg | N1=CC=CC2=NC(=CC=C12)C=O | C9H6N2O
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
reactant | iPrOH | 5.0 mL | CC(C)O | C3H8O
product | 2-(2-chloro-benzylamino)-5-[1,5]-naphthyridin-2-ylmethylene-1,5-dihydro-imidazol-4-one | ClC1=C(CNC=2NC(C(N2)=O)=CC2=NC3=CC=CN=C3C=C2)C=CC=C1 | C19H14ClN5O
